US06184305B2
Synthesis of N-(2,4-dinitrophenyl)-N-methyl-aminoethanol
20.3 g of N-methylaminoethanol was dissolved in 100 ml of ethanol and, while stirring, solid 1-chloro-2,4-dinitrobenzene was added to the solution by portions at room temperature. After completion of the addition, 8.4 g of sodium hydrogencarbonate was gradually added to the reaction mixture, followed by stirring for 10-15 minutes at room temperature. Then, the reaction mixture was heated at 60° C. After completion of the reaction, the reaction solution was cooled to room temperature, and poured into 300 ml of water. Continued stirring of the solution yielded a yellowish oily product. Stirring was then discontinued and, after completion of oil formation, the supernatant was removed. After adding water thereto, the solution obtained was stirred and the oil layer formed was collected by separation, and dried to obtain a yellowish oily product. Chemical structure of the product was confirmed by 1H-NMR. Absorptivity coefficient of the product at 365 nm was measured to be 1.79×104 by UV measurement in ethanol. 1H-NMR(CDCl3), TMS standard (400 MHz): 2.22(s,1H), 3.03(s,3H), 3.62(m,2H), 3.92(m,2H), 7.24(d,1H), 8.18(d,1H), 8.63(s,1H).

reactant | N-methylaminoethanol | 20.3 g | CNC(C)O | C3H9NO
reactant | 1-chloro-2,4-dinitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | sodium hydrogencarbonate | 8.4 g | C(O)([O-])=O.[Na+]
reactant | water | 300 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2,4-dinitrophenyl)-N-methyl-aminoethanol | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N(C)C(C)O | C9H11N3O5
